* eeschema netlist version 1.1 (spice format) creation date: mon jun  8 14:38:19 2015

r3  8 0 1000
r2  3 0 1000
r1  7 0 1000
* u2  12 6 5 d_and
* u3  12 6 10 d_or
* u4  5 10 1 d_nor
* u5  5 10 9 d_nand
* u6  1 11 d_inverter
* u7  9 11 4 d_xor
* u8  4 3 dac_bridge_1
* u1  8 7 12 6 adc_bridge_2
v2  8 0 pulse(0 5 0.1u 0.1u 0.1u 2u 20u)
v1  7 0 pulse(5 0 0.1u 0.1u 0.1u 2u 20u)
a1 [12 6 ] 5 u2
a2 [12 6 ] 10 u3
a3 [5 10 ] 1 u4
a4 [5 10 ] 9 u5
a5 1 11 u6
a6 [9 11 ] 4 u7
a7 [4 ] [3 ] u8
a8 [8 7 ] [12 6 ] u1
* Schematic Name: d_and, NgSpice Name: d_and
.model u2 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_or, NgSpice Name: d_or
.model u3 d_or(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_nor, NgSpice Name: d_nor
.model u4 d_nor(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_nand, NgSpice Name: d_nand
.model u5 d_nand(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u6 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_xor, NgSpice Name: d_xor
.model u7 d_xor(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: dac_bridge_1, NgSpice Name: dac_bridge
.model u8 dac_bridge(out_undef=0.5 out_low=0.0 out_high=5.0 t_rise=1.0e-9 t_fall=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name: adc_bridge_2, NgSpice Name: adc_bridge
.model u1 adc_bridge(fall_delay=1.0e-9 in_high=2.0 rise_delay=1.0e-9 in_low=1.0 ) 
.tran 10e-06 30e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
