* /home/fossee/downloads/labmigration/lm_solve/basicgates/basicgates.cir

r3  a gnd 1000
r2  out gnd 1000
r1  b gnd 1000
* u2  net-_u1-pad3_ net-_u1-pad4_ net-_u2-pad3_ d_and
* u3  net-_u1-pad3_ net-_u1-pad4_ net-_u3-pad3_ d_or
* u4  net-_u2-pad3_ net-_u3-pad3_ net-_u4-pad3_ d_nor
* u5  net-_u2-pad3_ net-_u3-pad3_ net-_u5-pad3_ d_nand
* u6  net-_u4-pad3_ net-_u6-pad2_ d_inverter
* u7  net-_u5-pad3_ net-_u6-pad2_ net-_u7-pad3_ d_xor
* u8  net-_u7-pad3_ out dac_bridge_1
* u1  a b net-_u1-pad3_ net-_u1-pad4_ adc_bridge_2
v2  a gnd pulse(0 5 0.1u 0.1u 0.1u 2u 20u)
v1  b gnd pulse(0 5 0.1u 0.1u 0.1u 2u 20u)
* u9  a plot_v1
* u10  b plot_v1
* u11  out plot_v1
a1 [net-_u1-pad3_ net-_u1-pad4_ ] net-_u2-pad3_ u2
a2 [net-_u1-pad3_ net-_u1-pad4_ ] net-_u3-pad3_ u3
a3 [net-_u2-pad3_ net-_u3-pad3_ ] net-_u4-pad3_ u4
a4 [net-_u2-pad3_ net-_u3-pad3_ ] net-_u5-pad3_ u5
a5 net-_u4-pad3_ net-_u6-pad2_ u6
a6 [net-_u5-pad3_ net-_u6-pad2_ ] net-_u7-pad3_ u7
a7 [net-_u7-pad3_ ] [out ] u8
a8 [a b ] [net-_u1-pad3_ net-_u1-pad4_ ] u1
* Schematic Name: d_and, NgSpice Name: d_and
.model u2 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_or, NgSpice Name: d_or
.model u3 d_or(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_nor, NgSpice Name: d_nor
.model u4 d_nor(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_nand, NgSpice Name: d_nand
.model u5 d_nand(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u6 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_xor, NgSpice Name: d_xor
.model u7 d_xor(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: dac_bridge_1, NgSpice Name: dac_bridge
.model u8 dac_bridge(out_undef=0.5 out_low=0.0 out_high=5.0 t_rise=1.0e-9 t_fall=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name: adc_bridge_2, NgSpice Name: adc_bridge
.model u1 adc_bridge(fall_delay=1.0e-9 in_high=2.0 rise_delay=1.0e-9 in_low=1.0 ) 
.tran 10e-06 30e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(a)
plot v(b)
plot v(out)
.endc
.end
